US04567189
S-α,β-Isopropylidene glycerol (2.53 g, 0.0191M) was added dropwise to a stirred slurry of sodium hydride (1.08 g of a 50% dispersion in oil, 0.021M) in dry dimethoxyethane (15 ml) containing dry dimethylsulphoxide (3 ml). The reaction mixture was stirred at room temperature for 0.25 hours and then treated with benzyl chloride (2.66 g, 0.021M). The reaction mixture was heated at 80° C. for 3 hours. The solvent was evaporated off under reduced pressure and the residue was treated with water and extracted with ether. The combined extracts were dried (MgSO4) and the solvent was evaporated off under reduced pressure to give the crude S-α,β-isopropylidene glycerol, benzyl ether. The crude product was dissolved in acetone (4 ml) and treated with hydrochloric acid (2 ml of 1 Ml-1) and heated at 70° C. for 2 hours. The solvent was evaporated off under reduced pressure and the residue was dissolved in ethyl acetate (120 ml), washed with saturated aqueous sodium hydrogen carbonate solution and dried (MgSO4). The solvent was evaporated off under reduced pressure to give the crude product which was further purified by chromatography (silica gel, 10% ethanol in chloroform) to give R-1-benzyloxy-2,3-dihydroxypropane (3.2 g) as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulphoxide | 3 ml | CS(=O)C | C2H6OS
reactant | benzyl chloride | 0.021M, 2.66 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
product | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
